US09447069B2
1-(4-(tert-butyl)benzyl)-5-(1H-pyrazol-4-yl)indoline, 50
1-(4-Isopropylbenzyl)-5-(1H-pyrazol-4-yl)indoline, 50 can be prepared by alkylation of 5-bromoindoline, 22 with 1-(bromomethyl)-4-(tert-butyl)benzene using the conditions described in Example 7, part 1 followed by palladium catalyzed coupling of the alkylation product with tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate, 10 followed by hydrolysis using the reaction conditions described in Example 8.

reactant | 1-(4-Isopropylbenzyl)-5-(1H-pyrazol-4-yl)indoline | C(C)(C)C1=CC=C(CN2CCC3=CC(=CC=C23)C=2C=NNC2)C=C1 | C21H23N3
reactant | 5-bromoindoline | BrC=1C=C2CCNC2=CC1 | C8H8BrN
reactant | 1-(bromomethyl)-4-(tert-butyl)benzene | BrCC1=CC=C(C=C1)C(C)(C)C | C11H15Br
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
catalyst | palladium | [Pd] | Pd
product | 1-(4-(tert-butyl)benzyl)-5-(1H-pyrazol-4-yl)indoline | C(C)(C)(C)C1=CC=C(CN2CCC3=CC(=CC=C23)C=2C=NNC2)C=C1 | C22H25N3
